US07538121B2
N-[1-(2-Dimethylaminoethyl)-1,2,3,4-tetrahydroquinolin-7-yl]-4-biphenyl-carboxamide
To a solution of 7-amino-1-(2-dimethylaminoethyl)-1,2,3,4-tetrahydroquinoline (D14) (38 mg, 0.152 mmol) in DCM (1 ml) was added 4-biphenylcarboxylic acid (45 mg, 0.22 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (42 mg, 0.22 mmol) and 4-dimethylaminopyridine (2.8 mg, 0.022 mmol) and the reaction stirred at ambient temperature overnight. The crude reaction mixture was loaded directly onto a silica SPE column and elution with EtOAc followed by 1% triethylamine/EtOAc gave the title compound as a red gum. 1H NMR (250 MHz, CDCl3) δ (ppm): 7.94 (d, 2H), 7.75 (br, 1H), 7.70 (d, 2H), 7.64 (d, 2H), 7.47 (t, 2H), 7.39 (t, 1H), 7.01 (d, 1H), 6.92 (d, 1H), 6.82 (dd, 1H), 3.43 (m, 2H), 3.33 (m, 2H), 2.73 (t, 2H), 2.55 (m, 2H), 2.33 (s, 6H), 1.95 (m, 2H).

reactant | 7-amino-1-(2-dimethylaminoethyl)-1,2,3,4-tetrahydroquinoline | 0.152 mmol, 38 mg | NC1=CC=C2CCCN(C2=C1)CCN(C)C | C13H21N3
reactant | 4-biphenylcarboxylic acid | 0.22 mmol, 45 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.22 mmol, 42 mg | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.022 mmol, 2.8 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[1-(2-Dimethylaminoethyl)-1,2,3,4-tetrahydroquinolin-7-yl]-4-biphenyl-carboxamide | CN(CCN1CCCC2=CC=C(C=C12)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C | C26H29N3O
